### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/NormalForms): some normal forms of elliptic curves

### PR DESCRIPTION
**Pull request by acmepjz**
This PR adds some normal forms of elliptic curves by characteristic. The results are from Silverman's GTM106 second edition, section III.1, page 42, and Appendix A, Proposition 1.1.

- Normal form of characteristics not 2: `Y^2 = X^3 + a_2X^2 + a_4X + a_6`.
- Normal form of characteristics not 2 or 3: `Y^2 = X^3 + a_4X + a_6`. This is also the normal form of characteristic = 3 and j = 0.
- Normal form of characteristic = 3 and j not 0: `Y^2 = X^3 + a_2X^2 + a_6`.
- Normal form of characteristic = 2 and j = 0: `Y^2 + a_3Y = X^3 + a_4X + a_6`.
- Normal form of characteristic = 2 and j not 0: `Y^2 + XY = X^3 + a_2X^2 + a_6`.

Basic properties and the existence of the change of variables to change a curve into these forms are included.

Legendre normal form and Deuring normal form may be added in this file in the future PRs.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

discussion: https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.2316864.20normal.20forms.20of.20elliptic.20curves/near/472890599

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 1]
```diff
@@ -0,0 +1,106 @@
...
+variable {R : Type u}
+
+namespace WeierstrassCurve
+
+variable (W : WeierstrassCurve R)
+
+/-! ### Normal forms of characteristic ≠ 2
+-/
+
+/-- A `WeierstrassCurve` is of normal form of characteristic ≠ 2, if its a₁ and a₃ are zero.
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:39]:
```suggestion
/-- A `WeierstrassCurve` is of normal form of characteristic ≠ 2, if its `a₁` and `a₃` coefficients are zero.
```

Comment (jcommelin) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:39]: Also: should it be "in normal form" instead of "of normal form"?

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 2]
```diff
@@ -0,0 +1,106 @@
...
+In other words it is $Y^2 = X^3 + a_2X^2 + a_4X + a_6$. -/
+@[mk_iff]
+structure IsNormalFormOfCharNeTwo [Zero R] : Prop where
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:42]: What do you think of abbreviating this name as follows:
```suggestion
structure IsNormalForm₂ [Zero R] : Prop where
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:39]: Thanks! Fixed.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:42]: A question is that this is the normal form of characteristic not equal to 2. There are also normal forms of characteristic not equal to 2 or 3, characteristic equal to 2, and characteristic equal to 3. The `IsNormalForm₂` confuses the characteristic not equal to 2 case and characteristic equal to 2 case.

But I admit that this name is too long. Do you think `IsNFCharNeTwo` or `IsNFCharNe2` is OK?

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 3]
```diff
@@ -0,0 +1,106 @@
...
+    ∃ C : VariableChange R, (W.variableChange C).IsNormalFormOfCharNeTwo :=
+  ⟨_, W.variableChangeToNormalFormOfCharNeTwo_spec⟩
+
+end VariableChange
+
+namespace IsNormalFormOfCharNeTwo
+
+variable {W}
+variable [CommRing R] (self : W.IsNormalFormOfCharNeTwo)
+include self
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:73]: Hmm I've never needed to do `include` before. Does making `IsNormalFormOfCharNeTwo` a typeclass help?

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 2 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:42]: I like `IsNFCharNeTwo` better, but maybe `IsCharNeTwoNF` is more grammatical? Same goes for `IsCharTwoNF` and maybe `IsCharNeThreeNF` for char not 2 or 3 (unless you prefer `IsCharNeTwoThreeNF`)?

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 4]
```diff
@@ -0,0 +1,106 @@
...
+a normal form of characteristic ≠ 2, provided that 2 is invertible in the ring. -/
+@[simps]
+def variableChangeToNormalFormOfCharNeTwo : VariableChange R where
+  u := 1
+  r := 0
+  s := ⅟2 * -W.a₁
+  t := ⅟2 * -W.a₃
+
+theorem variableChangeToNormalFormOfCharNeTwo_spec :
+    (W.variableChange (W.variableChangeToNormalFormOfCharNeTwo)).IsNormalFormOfCharNeTwo := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:60]: Untested:
```suggestion
(W.variableChange W.variableChangeToNormalFormOfCharNeTwo).IsNormalFormOfCharNeTwo := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 5]
```diff
@@ -0,0 +1,106 @@
...
+theorem exists_variableChange_isNormalFormOfCharNeTwo :
+    ∃ C : VariableChange R, (W.variableChange C).IsNormalFormOfCharNeTwo :=
+  ⟨_, W.variableChangeToNormalFormOfCharNeTwo_spec⟩
+
+end VariableChange
+
+namespace IsNormalFormOfCharNeTwo
+
+variable {W}
+variable [CommRing R] (self : W.IsNormalFormOfCharNeTwo)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:72]: Surely these can be in the same line

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 6]
```diff
@@ -0,0 +1,106 @@
...
+  a₃ : W.a₃ = 0
+
+section VariableChange
+
+variable [CommRing R] [Invertible (2 : R)]
+
+/-- This is an explicit change of variables of a `WeierstrassCurve` to
+a normal form of characteristic ≠ 2, provided that 2 is invertible in the ring. -/
+@[simps]
+def variableChangeToNormalFormOfCharNeTwo : VariableChange R where
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:53]: This seems a bit long a name for a common variable change. Maybe you can move it into the `VariableChange` namespace or the `IsNormalFormOfCharNeTwo` namespace and think of a shorter name?

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 7]
```diff
@@ -0,0 +1,106 @@
...
+theorem c₆ : W.c₆ = -64 * W.a₂ ^ 3 + 288 * W.a₂ * W.a₄ - 864 * W.a₆ := by
+  simp_rw [WeierstrassCurve.c₆, self.b₂, self.b₄, self.b₆]
+  ring1
+
+theorem Δ : W.Δ = -64 * W.a₂ ^ 3 * W.a₆ + 16 * W.a₂ ^ 2 * W.a₄ ^ 2 - 64 * W.a₄ ^ 3
+    - 432 * W.a₆ ^ 2 + 288 * W.a₂ * W.a₄ * W.a₆ := by
+  simp_rw [WeierstrassCurve.Δ, self.b₂, self.b₄, self.b₆, self.b₈]
+  ring1
+
+end IsNormalFormOfCharNeTwo
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:104]: Is it easy to add the lemma for the `j`-invariant here? I guess you'd need `W` to be an elliptic curve first...

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 8]
```diff
@@ -0,0 +1,106 @@
...
+universe u
+
+variable {R : Type u}
+
+namespace WeierstrassCurve
+
+variable (W : WeierstrassCurve R)
+
+/-! ### Normal forms of characteristic ≠ 2
+-/
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:37]:
```suggestion
/-! ### Normal forms of characteristic different from two -/
```

**Review by Multramate — COMMENTED** [review]
Thanks for this! I added some very basic comments. I note that this is somewhat similar to the `ModelsWithJ` section in `Weierstrass.lean` in the sense that you defined explicit forms of Weierstrass curves for specific purposes.

Do you intend to add a lot more to this file (e.g. characteristic 2, characteristic not 2 or 3, and maybe the isomorphism on the group of points)? If that's the case, do you think you can repurpose this into a file about isomorphisms induced by variable changes (maybe `Equiv.lean`?). A while ago, you added quite a bit of stuff on variable changes that's sprinkled everywhere in `Weierstrass.lean`, but maybe it's time to extract them into a separate file. Arguably, the main content of this file is the variable change rather than the Prop, unless you have something else you want to prove for the Prop?

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 7 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:104]: This is [EllipticCurve.variableChange_j](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.html#EllipticCurve.variableChange_j)

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:104]: It is possible, but it seems that the formula for `j`-invariant is not simple enough for this case, so I haven't add it yet.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 3 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:73]: It is a "feature" introduced in [4.11.0](https://github.com/leanprover/lean4/releases/tag/v4.11.0). In fact I'm refrained from making it as a typeclass...

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 2 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:42]: I think `IsCharNeTwoNF` is good.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 6 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:53]: I intended to make it in `WeierstrassCurve` namespace. In this way we can write the dot notation `W.variableChangeToNormalFormOfCharNeTwo`. Of course it is indeed a long name.

After adopting `IsCharNeTwoNF`, it can be shorten as `variableChangeToCharNeTwoNF`. But is it still too long? What about `vcToCharNeTwoNF`?

**Comment by acmepjz** [comment]
> Do you intend to add a lot more to this file (e.g. characteristic 2, characteristic not 2 or 3

Yes, My first plan is to add four normal forms with respect to characteristics, listed in Silverman's GTM106. In later PRs we may eventually add Legendre forms, etc.

> maybe the isomorphism on the group of points)? If that's the case, do you think you can repurpose this into a file about isomorphisms induced by variable changes (maybe `Equiv.lean`?).

Not yet, at least not in this PR and in this file.

> A while ago, you added quite a bit of stuff on variable changes that's sprinkled everywhere in `Weierstrass.lean`, but maybe it's time to extract them into a separate file.

I agree, maybe the base property of variable changes should go to `VariableChange/Basic.lean`. In this way it imports minimal files. In my opinion, the isomorphism of points induced by variable changes should go to a downstream file, since it imports more files.

> Arguably, the main content of this file is the variable change rather than the Prop, unless you have something else you want to prove for the Prop?

No, I think the main contents of this file `NormalForms.lean` are these Props and their corollaries (for example, what is the `j`-invariant, listed in Silverman's GTM106, section III.1 and Appendix A), together with the existence of variable changes (explicit, if applicable, but only merely existence does not harm) to transform a Weierstrass equation to these forms.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 9]
```diff
@@ -0,0 +1,662 @@
...
+
+# Some normal forms of elliptic curves
+
+This file defines some normal forms of Weierstrass equations of elliptic curves.
+
+## Main definitions and results
+
+The following normal form is in [silverman2009], section III.1, page 42.
+
+- `WeierstrassCurve.IsCharNeTwoNF` is a predicate asserts that a `WeierstrassCurve` is of form
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:19]:
```suggestion
- `WeierstrassCurve.IsCharNeTwoNF` is a predicate that asserts that a `WeierstrassCurve` is of form
```
also elsewhere

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 10]
```diff
@@ -0,0 +1,662 @@
...
+
+/-!
+
+# Some normal forms of elliptic curves
+
+This file defines some normal forms of Weierstrass equations of elliptic curves.
+
+## Main definitions and results
+
+The following normal form is in [silverman2009], section III.1, page 42.
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:17]:
```suggestion
The following normal forms are in [silverman2009], section III.1, page 42.
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 11]
```diff
@@ -0,0 +1,662 @@
...
+
+  If 2 and 3 are invertible in the ring (for example, if it is a field of characteristic
+  not equal to 2 or 3),
+  then for any `WeierstrassCurve` there exists a change of variables which will change
+  it into such normal form (`WeierstrassCurve.exists_variableChange_isCharNeTwoThreeNF`).
+  See also `WeierstrassCurve.vcToCharNeTwoThreeNF` and
+  `WeierstrassCurve.vcToCharNeTwoThreeNF_spec`.
+
+  If the ring is of characteristic 3 and the $b_2$ of the curve is zero (for an elliptic curve,
+  it is equivalent to that j = 0), then there exists a change of variables which will change
```
Comment (jcommelin) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:42]:
```suggestion
  this is equivalent to j = 0), then there exists a change of variables which will change
```
also elsewhere

**Review by jcommelin — COMMENTED** [review]
Thanks! Some minor nitpicks on the docstring, but otherwise LGTM

bors d+

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 12]
```diff
@@ -0,0 +1,662 @@
...
+  simp_rw [WeierstrassCurve.c₆, self.b₂, self.b₄, self.b₆]
+  ring1
+
+theorem Δ : W.Δ = -16 * (4 * W.a₄ ^ 3 + 27 * W.a₆ ^ 2) := by
+  simp_rw [WeierstrassCurve.Δ, self.b₂, self.b₄, self.b₆, self.b₈]
+  ring1
+
+theorem c₄_of_char_three [CharP R 3] : W.c₄ = 0 := by
+  rw [self.c₄]
+  linear_combination (-16 * W.a₄) * CharP.cast_eq_zero R 3
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:217]: Untested:
```suggestion
  linear_combination -16 * W.a₄ * CharP.cast_eq_zero R 3
```
and same for the others below.

**Review by Multramate — COMMENTED** [review]
This became a pretty long PR as itself, but the definitions and theorems are very structured with good docstrings :) I added a few basic comments and will go in-depth tomorrow.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 13]
```diff
@@ -0,0 +1,662 @@
...
+/-- This is an explicit change of variables of a `WeierstrassCurve` to
+a normal form of characteristic ≠ 2, provided that 2 is invertible in the ring. -/
+@[simps]
+def vcToCharNeTwoNF : VariableChange R where
+  u := 1
+  r := 0
+  s := ⅟2 * -W.a₁
+  t := ⅟2 * -W.a₃
+
+theorem vcToCharNeTwoNF_spec :
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:162]: This name comes from [Classical.choose_spec](https://leanprover-community.github.io/mathlib4_docs/Init/Classical.html#Classical.choose_spec), [Nat.find_spec](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Find.html#Nat.find_spec), [minpolyDiv_spec](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Minpoly/MinpolyDiv.html#minpolyDiv_spec), etc. It means that something satisfies its desired property. In my opinion this naming is shorter and uniform; using `toXXX_isXXX` you need to change to `XXX`s for each different variable changes.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 14]
```diff
@@ -0,0 +1,662 @@
...
+end IsCharNeTwoNF
+
+section VariableChange
+
+variable [Invertible (2 : R)]
+
+/-- This is an explicit change of variables of a `WeierstrassCurve` to
+a normal form of characteristic ≠ 2, provided that 2 is invertible in the ring. -/
+@[simps]
+def vcToCharNeTwoNF : VariableChange R where
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:156]: Good idea.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 15]
```diff
@@ -0,0 +1,662 @@
...
+# Some normal forms of elliptic curves
+
+This file defines some normal forms of Weierstrass equations of elliptic curves.
+
+## Main definitions and results
+
+The following normal forms are in [silverman2009], section III.1, page 42.
+
+- `WeierstrassCurve.IsCharNeTwoNF` is a predicate which asserts that a `WeierstrassCurve` is
+  of form $Y^2 = X^3 + a_2X^2 + a_4X + a_6$. It is the normal form of characteristic ≠ 2.
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:20]: OK, will stick to `≠ 2`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 12 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:217]: Good idea. Yes it works in existing file `Weierstrass.lean`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 16]
```diff
@@ -0,0 +1,662 @@
...
+  linear_combination (-21 * W.a₂ ^ 3 * W.a₆ - 144 * W.a₆ ^ 2) * CharP.cast_eq_zero R 3
+
+end IsCharThreeJNeZeroNF
+
+namespace IsCharThreeJNeZeroNF
+
+variable {E} (self : E.IsCharThreeJNeZeroNF)
+include self
+
+theorem j_of_char_three [CharP K 3] : E.j = -E.a₂ ^ 3 / E.a₆ := by
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:324]: > Some of these should be in the `EllipticCurve` namespace (at least for now, before we decide to make `EllipticCurve` a predicate).

No, they are in `WeierstrassCurve.IsCharThreeJNeZeroNF` namespace. This enables the use of dot notation, e.g. `self.j_of_char_three` later, where `self` is `E.IsCharThreeJNeZeroNF` (which in fact is `E.toWeierstrassCurve.IsCharThreeJNeZeroNF`). This works even for current `WeierstrassCurve -> EllipticCurve` API design.

> Probably add the variable `(E : EllipticCurve R)` here to be clear?

`E : EllipticCurve R` is used in different namespaces/sections, so I put it at the beginning of the file.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 17]
```diff
@@ -358,73 +357,73 @@ section VariableChange
...
+    (W₁.variableChange W₁.toCharThreeNF).IsCharNeTwoThreeNF := by
+  rw [toCharThreeNF, toCharThreeJZeroNF_a₂, hb₂, div_zero]
   erw [one_mul]
-  exact W₁.vcToCharThreeJZeroNF_spec hb₂
+  exact W₁.toCharThreeJZeroNF_spec hb₂
 
-theorem vcToCharThreeNF_spec :
-    (W₁.variableChange W₁.vcToCharThreeNF).IsCharThreeNF := by
+theorem toCharThreeNF_spec :
+    (W₁.variableChange W₁.toCharThreeNF).IsCharThreeNF := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:412]:
```suggestion
theorem toCharThreeNF_spec : (W₁.variableChange W₁.vcToCharThreeNF).IsCharThreeNF := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 18]
```diff
@@ -610,52 +609,52 @@ section VariableChange
...
 $Y^2 + a_3Y = X^3 + a_4X + a_6$ (`IsCharTwoJZeroNF`). -/
-def vcToCharTwoNF [DecidableEq K] : VariableChange K :=
-  if ha₁ : W₁.a₁ = 0 then W₁.vcToCharTwoJZeroNF else W₁.vcToCharTwoJNeZeroNF ha₁
+def toCharTwoNF [DecidableEq K] : VariableChange K :=
+  if ha₁ : W₁.a₁ = 0 then W₁.toCharTwoJZeroNF else W₁.toCharTwoJNeZeroNF ha₁
 
-theorem vcToCharTwoNF_spec [DecidableEq K] :
-    (W₁.variableChange W₁.vcToCharTwoNF).IsCharTwoNF := by
+theorem toCharTwoNF_spec [DecidableEq K] :
+    (W₁.variableChange W₁.toCharTwoNF).IsCharTwoNF := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:647]:
```suggestion
theorem toCharTwoNF_spec [DecidableEq K] : (W₁.variableChange W₁.vcToCharTwoNF).IsCharTwoNF := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 19]
```diff
@@ -358,73 +357,73 @@ section VariableChange
...
-lemma vcToCharThreeJZeroNF_a₂ :
-    (W.variableChange W.vcToCharThreeJZeroNF).a₂ = W.b₂ := by
-  simp_rw [vcToCharThreeJZeroNF, vcToCharNeTwoNF, variableChange_a₂, inv_one,
+It is the composition of an explicit change of variables with `toCharThreeJZeroNF`. -/
+def toCharThreeNF : VariableChange K :=
+  ⟨1, (W₁.variableChange W₁.toCharThreeJZeroNF).a₄ /
+    (W₁.variableChange W₁.toCharThreeJZeroNF).a₂, 0, 0⟩ * W₁.toCharThreeJZeroNF
+
+lemma toCharThreeJZeroNF_a₂ :
+    (W.variableChange W.toCharThreeJZeroNF).a₂ = W.b₂ := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:379]:
```suggestion
lemma toCharThreeJZeroNF_a₂ : (W.variableChange W.toCharThreeJZeroNF).a₂ = W.b₂ := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 20]
```diff
@@ -358,73 +357,73 @@ section VariableChange
...
+  simp_rw [toCharThreeJZeroNF, toCharNeTwoNF, variableChange_a₂, inv_one,
     Units.val_one, b₂]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:381]:
```suggestion
  simp_rw [toCharThreeJZeroNF, toCharNeTwoNF, variableChange_a₂, inv_one, Units.val_one, b₂]
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 21]
```diff
@@ -249,27 +248,27 @@ variable [Invertible (2 : R)] [Invertible (3 : R)]
...
-    (W.variableChange W.vcToCharNeTwoThreeNF).IsCharNeTwoThreeNF := by
-  rw [vcToCharNeTwoThreeNF]; erw [variableChange_comp]
-  have H := W.vcToCharNeTwoNF_spec
-  set W' := W.variableChange W.vcToCharNeTwoNF
+It is the composition of an explicit change of variables with `toCharNeTwoNF`. -/
+def toCharNeTwoThreeNF : VariableChange R :=
+  ⟨1, ⅟3 * -(W.variableChange W.toCharNeTwoNF).a₂, 0, 0⟩ * W.toCharNeTwoNF
+
+theorem toCharNeTwoThreeNF_spec :
+    (W.variableChange W.toCharNeTwoThreeNF).IsCharNeTwoThreeNF := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:256]:
```suggestion
theorem toCharNeTwoThreeNF_spec : (W.variableChange W.toCharNeTwoThreeNF).IsCharNeTwoThreeNF := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 22]
```diff
@@ -153,26 +152,26 @@ variable [Invertible (2 : R)]
...
+def toCharNeTwoNF : VariableChange R where
   u := 1
   r := 0
   s := ⅟2 * -W.a₁
   t := ⅟2 * -W.a₃
 
-theorem vcToCharNeTwoNF_spec :
-    (W.variableChange W.vcToCharNeTwoNF).IsCharNeTwoNF := by
+theorem toCharNeTwoNF_spec :
+    (W.variableChange W.toCharNeTwoNF).IsCharNeTwoNF := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:162]:
```suggestion
theorem toCharNeTwoNF_spec : (W.variableChange W.toCharNeTwoNF).IsCharNeTwoNF := by
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 23]
```diff
@@ -101,10 +100,10 @@ variable {K : Type*} [Field K] (W₁ : WeierstrassCurve K) (E : EllipticCurve K)
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:100]: Unsure about this: is `Type*` weaker than `Type u` and `Type v` for explicit universes `u` and `v`? I try to make them as general as possible so far. I think I encountered some issues when trying to use `Type*` in the number field files.

For my projective/Jacobian files I tend to stick with `W' : WeierstrassCurve R` for Weierstrass curves over rings (instead of `W₁` and `W : WeierstrassCurve F` for Weierstrass curves over fields (because I wanted to reserve `K` for specific fields like number fields or finite fields), but feel free to ignore this since this is a different file.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 24]
```diff
@@ -101,10 +100,10 @@ variable {K : Type*} [Field K] (W₁ : WeierstrassCurve K) (E : EllipticCurve K)
...
-/-! ### Normal forms of characteristic different from two -/
+/-! ### Normal forms of characteristic ≠ 2 -/
 
-/-- A `WeierstrassCurve` is in normal form of characteristic ≠ 2, if its $a_1$ and $a_3$
-coefficients are zero. In other words it is $Y^2 = X^3 + a_2X^2 + a_4X + a_6$. -/
+/-- A `WeierstrassCurve` is in normal form of characteristic ≠ 2, if its $a_1, a_3 = 0$.
+In other words it is $Y^2 = X^3 + a_2X^2 + a_4X + a_6$. -/
 @[mk_iff]
 structure IsCharNeTwoNF : Prop where
   a₁ : W.a₁ = 0
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:109]: A more genuine question: is there a point in using `structure` rather than just making this a `def`? You have five instances of `structure` and two instances of `def` for `IsChar.*`, and we should probably make this consistent.

I personally prefer `def` since we don't need `_spec`, but maybe there's a reason you need `structure`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 25]
```diff
@@ -358,73 +357,73 @@ section VariableChange
 
 variable [CharP R 3] [CharP K 3]
 
-/-- For a `WeierstrassCurve` defined over a ring of characteristic 3,
+/-- For a `WeierstrassCurve` defined over a ring of characteristic = 3,
 there is an explicit change of variables, which changes it to $Y^2 = X^3 + a_4X + a_6$
-(`IsCharNeTwoThreeNF`) if its j is zero.
-This is in fact given by `vcToCharNeTwoNF`. -/
-def vcToCharThreeJZeroNF : VariableChange R :=
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: The `1` in `linear_combination 1 *` is unnecessary.

**Review by Multramate — COMMENTED** [review]
Had almost no time today! Some minor suggestions.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 23 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:100]: > Unsure about this: is `Type*` weaker than `Type u` and `Type v` for explicit universes `u` and `v`?

`Type*` is the same as `Type u` and `Type v` as long as you don't need to specify universe levels manually. Each `Type*` will be interpreted as distinct universe levels, for example, `{R K : Type*}` means that `R : Type u_1` and `K : Type u_2`. The issue occurred when you want some of these objects are in the same universe level, or if you want to mention the level manually (for example, Cardinal.lift, max of universe levels, e.g. in [lift_rank_mul_lift_rank](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Dimension/Free.html#lift_rank_mul_lift_rank)).

> For my projective/Jacobian files I tend to stick with `W' : WeierstrassCurve R` for Weierstrass curves over rings (instead of `W₁` and `W : WeierstrassCurve F` for Weierstrass curves over fields (because I wanted to reserve `K` for specific fields like number fields or finite fields), but feel free to ignore this since this is a different file.

I see. In fact the name `W₁` is for laziness. Ideally I should use `W` for all `WeierstrassCurve`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 24 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: > A more genuine question: is there a point in using `structure` rather than just making this a `def`?

Of course, for example I can use `def IsCharNeTwoThreeNF := W.a₁ = 0 ∧ W.a₂ = 0 ∧ W.a₃ = 0`. But then it's not straightforward to reference `W.a₁ = 0`.

> You have five instances of `structure` and two instances of `def` for `IsChar.*`, and we should probably make this consistent.

Do you mean `inductive IsCharThreeNF : Prop` instead of `def IsCharThreeNF : Prop := W.IsCharThreeJNeZeroNF ∨ W.IsCharNeTwoThreeNF`? Not that this condition is `or`, not `and`. But I think `inductive` version does not give us advantages.

> I personally prefer `def` since we don't need `_spec`, but maybe there's a reason you need `structure`.

I don't get your point. The `_spec` is for the property of the variable change `toCharNeTwoNF`, but not for the prop `IsCharNeTwoNF` itself.

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: Ah fair enough, this was my mistake because I was scrolling too quickly.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 26]
```diff
@@ -0,0 +1,667 @@
...
+end VariableChange
+
+/-! ### Normal forms of characteristic ≠ 2 or 3 -/
+
+/-- A `WeierstrassCurve` is in normal form of characteristic ≠ 2 or 3, if its $a_1, a_2, a_3 = 0$.
+In other words it is $Y^2 = X^3 + a_4X + a_6$.
+
+This is also the normal form of characteristic = 3 and j = 0. -/
+@[mk_iff]
+structure IsCharNeTwoThreeNF : Prop where
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:177]: I think it's better to call this `IsCharThreeJZeroNF` to match `IsCharThreeJNeZeroNF` (analogous to the difference between `IsCharTwoJZeroNF` and `IsCharTwoJNeZeroNF`).

Personally I find the names slightly confusing, because this is the normal form for both characteristic not 3 and characteristic 3 but j = 0. Arguably you could give them your own names e.g. `IsNF(B|C)(1|2)` based on Silverman's numbering in Appendix A, or `IsNF(A.)*` etc based on the parameters killed off. I don't know if this is a good idea, but I also don't have any better suggestions, so feel free to ignore this.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 27]
```diff
@@ -0,0 +1,667 @@
...
+  If 2 is invertible in the ring (for example, if it is a field of characteristic ≠ 2),
+  then for any `WeierstrassCurve` there exists a change of variables which will change
+  it into such normal form (`WeierstrassCurve.exists_variableChange_isCharNeTwoNF`).
+  See also `WeierstrassCurve.toCharNeTwoNF` and
+  `WeierstrassCurve.toCharNeTwoNF_spec`.
+
+The following normal forms are in [silverman2009], Appendix A, Proposition 1.1.
+
+- `WeierstrassCurve.IsCharNeTwoThreeNF` is a predicate which asserts that a `WeierstrassCurve` is
+  of form $Y^2 = X^3 + a_4X + a_6$. It is the normal form of characteristic ≠ 2.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:31]:
```suggestion
  of form $Y^2 = X^3 + a_4X + a_6$. It is the normal form of characteristic ≠ 2 or 3.
```

If you decide to call this `WeierstrassCurve.IsCharThreeJZeroNF` then you should rearrange the sentences.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 28]
```diff
@@ -0,0 +1,667 @@
...
+
+variable {W} (self : W.IsCharThreeJNeZeroNF)
+include self
+
+theorem isCharNeTwoNF : W.IsCharNeTwoNF := ⟨self.a₁, self.a₃⟩
+
+theorem b₂ : W.b₂ = 4 * W.a₂ := self.isCharNeTwoNF.b₂
+
+theorem b₄ : W.b₄ = 0 := by
+  simpa [self.a₄] using self.isCharNeTwoNF.b₄
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:286]: You don't need `simpa`:
```suggestion
  simp [self.isCharNeTwoNF.b₄, self.a₄]
```
The same for the other lemmas below.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 29]
```diff
@@ -0,0 +1,667 @@
...
+  rw [E.coe_Δ', self.Δ_of_char_three] at h
+  rw [EllipticCurve.j, Units.val_inv_eq_inv_val, ← div_eq_inv_mul, E.coe_Δ',
+    self.c₄_of_char_three, self.Δ_of_char_three, div_eq_div_iff h (right_ne_zero_of_mul h)]
+  ring1
+
+theorem j_ne_zero_of_char_three [CharP F 3] : E.j ≠ 0 := by
+  rw [self.j_of_char_three, div_ne_zero_iff]
+  have h := E.Δ'.ne_zero
+  rw [E.coe_Δ', self.Δ_of_char_three] at h
+  exact ⟨left_ne_zero_of_mul h, right_ne_zero_of_mul h⟩
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:332]:
```suggestion
  rwa [E.coe_Δ', self.Δ_of_char_three, mul_ne_zero_iff] at h
```

**Review by Multramate — COMMENTED** [review]
Thanks for your patience! I added lots of mostly stylistic comments for the first half. My main suggestion is to rename `IsCharNeTwoThreeNF` (either to `IsCharThreeJNeZeroNF`, or to your own custom name, maybe even `IsShortNF`?). I will finish the second half tomorrow.

**Comment by acmepjz** [comment]
> My main suggestion is to rename `IsCharNeTwoThreeNF` (either to `IsCharThreeJNeZeroNF`, or to your own custom name, maybe even `IsShortNF`?).

I think `IsShortNF` is better, since it is the normal form of 2 cases, one is char not 2 or 3, another one is char 3 and j = 0.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 30]
```diff
@@ -0,0 +1,667 @@
...
+
+end IsCharNeTwoThreeNF
+
+section VariableChange
+
+variable [Invertible (2 : R)] [Invertible (3 : R)]
+
+/-- This is a change of variables of a `WeierstrassCurve` to
+a normal form of characteristic ≠ 2 or 3, provided that 2 and 3 are invertible in the ring.
+It is the composition of an explicit change of variables with `toCharNeTwoNF`. -/
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:250]: Oops. Then I think a lot of places need to be changed.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 31]
```diff
@@ -0,0 +1,667 @@
...
+variable {F : Type*} [Field F] (E : EllipticCurve F)
+
+namespace WeierstrassCurve
+
+/-! ### Normal forms of characteristic ≠ 2 -/
+
+/-- A `WeierstrassCurve` is in normal form of characteristic ≠ 2, if its $a_1, a_3 = 0$.
+In other words it is $Y^2 = X^3 + a_2X^2 + a_4X + a_6$. -/
+@[mk_iff]
+structure IsCharNeTwoNF : Prop where
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:108]: > Do you think it's better to call this (and the others) `CharNeTwoNF`, so that `toCharNeTwoNF` makes more sense? I'm aware that the naming convention for `Prop`'s is to start with a verb so feel free to ignore this!

I prefer `Is` version, since `CharNeTwoNF` is a little bit misleading: this name suggests that the data itself in a normal form...

> Another suggestion: if you made this into a `class`, then you can include this into the typeclass system, and you can delete all of the `self.*` in the lemmas below.

I'm not sure about this. Dot notation can't be used for `class` approach, and you need to write long names and `haveI`s...

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 32]
```diff
@@ -0,0 +1,667 @@
...
+  simp_rw [WeierstrassCurve.c₆, self.b₂, self.b₄, self.b₆]
+  ring1
+
+theorem Δ : W.Δ = -16 * (4 * W.a₄ ^ 3 + 27 * W.a₆ ^ 2) := by
+  simp_rw [WeierstrassCurve.Δ, self.b₂, self.b₄, self.b₆, self.b₈]
+  ring1
+
+theorem c₄_of_char_three [CharP R 3] : W.c₄ = 0 := by
+  rw [self.c₄]
+  linear_combination -16 * W.a₄ * CharP.cast_eq_zero R 3
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:215]: But this makes the proof less readable...

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 26 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:177]: I think `IsShortNF` is good. But I'm not sure about `IsCharNeTwoNF -> IsMediumNF`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 31 above)
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:108]: Do you need long names and `haveI`'s? At least in this file, except for `IsCharThreeNF`, I replaced all five `structure`'s with `class`'s, replaced all `(self : W. ...)` with `[W. ...]`, removed all `include self` and `self.`, and it seems to work fine (and a lot shorter!). Maybe you have an application in mind, and might be annoying without the dot notation?

If you don't need dot notation, the more natural thing is to remove the namespaces and replace `IsCharNeTwoNF.b₂` with `isCharNeTwoNF_b₂`, etc but maybe you still prefer the dot notation. I don't know which is better.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 26 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: I'm happy with `IsShortNF` and we can keep `IsCharNeTwoNF` too. I guess `IsShort` is outrageous? ;)

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 33]
```diff
@@ -0,0 +1,661 @@
...
+  then for any `WeierstrassCurve` there exists a change of variables which will change
+  it into such normal form (`WeierstrassCurve.exists_variableChange_isCharNeTwoNF`).
+  See also `WeierstrassCurve.toCharNeTwoNF` and
+  `WeierstrassCurve.toCharNeTwoNF_spec`.
+
+The following normal forms are in [silverman2009], Appendix A, Proposition 1.1.
+
+- `WeierstrassCurve.IsShortNF` is a predicate which asserts that a `WeierstrassCurve` is
+  of form $Y^2 = X^3 + a_4X + a_6$. It is the normal form of characteristic ≠ 2 or 3,
+  also the normal form of characteristic = 3 and j = 0.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:32]:
```suggestion
  of form $Y^2 = X^3 + a_4X + a_6$. It is the normal form of characteristic ≠ 2 or 3, and
  also the normal form of characteristic = 3 and j = 0.
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 34]
```diff
@@ -0,0 +1,661 @@
...
+
+  If 2 and 3 are invertible in the ring (for example, if it is a field of characteristic ≠ 2 or 3),
+  then for any `WeierstrassCurve` there exists a change of variables which will change
+  it into such normal form (`WeierstrassCurve.exists_variableChange_isShortNF`).
+  See also `WeierstrassCurve.toShortNF` and
+  `WeierstrassCurve.toShortNF_spec`.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:38]:
```suggestion
  See also `WeierstrassCurve.toShortNF` and `WeierstrassCurve.toShortNF_spec`.
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 35]
```diff
@@ -0,0 +1,661 @@
...
+The following normal forms are in [silverman2009], section III.1, page 42.
+
+- `WeierstrassCurve.IsCharNeTwoNF` is a predicate which asserts that a `WeierstrassCurve` is
+  of form $Y^2 = X^3 + a_2X^2 + a_4X + a_6$. It is the normal form of characteristic ≠ 2.
+
+  If 2 is invertible in the ring (for example, if it is a field of characteristic ≠ 2),
+  then for any `WeierstrassCurve` there exists a change of variables which will change
+  it into such normal form (`WeierstrassCurve.exists_variableChange_isCharNeTwoNF`).
+  See also `WeierstrassCurve.toCharNeTwoNF` and
+  `WeierstrassCurve.toCharNeTwoNF_spec`.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:26]:
```suggestion
  See also `WeierstrassCurve.toCharNeTwoNF` and `WeierstrassCurve.toCharNeTwoNF_spec`.
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 36]
```diff
@@ -0,0 +1,661 @@
...
+  of form $Y^2 = X^3 + a_4X + a_6$. It is the normal form of characteristic ≠ 2 or 3,
+  also the normal form of characteristic = 3 and j = 0.
+
+  If 2 and 3 are invertible in the ring (for example, if it is a field of characteristic ≠ 2 or 3),
+  then for any `WeierstrassCurve` there exists a change of variables which will change
+  it into such normal form (`WeierstrassCurve.exists_variableChange_isShortNF`).
+  See also `WeierstrassCurve.toShortNF` and
+  `WeierstrassCurve.toShortNF_spec`.
+
+  If the ring is of characteristic = 3 and the $b_2$ of the curve = 0 (for an elliptic curve,
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:40]: This is probably clearer and follows the sentence structure above:
```suggestion
  If the ring is of characteristic = 3, then for any `WeierstrassCurve` with $b_2 = 0$ (for an elliptic curve,
```
Same with the three others below.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 37]
```diff
@@ -0,0 +1,661 @@
...
+  and `WeierstrassCurve.toCharThreeNF_spec_of_b₂_ne_zero`).
+
+- `WeierstrassCurve.IsCharThreeNF` is the combination of the above two, that is, asserts that
+  a `WeierstrassCurve` is of form $Y^2 = X^3 + a_2X^2 + a_6$ or $Y^2 = X^3 + a_4X + a_6$.
+  It is the normal form of characteristic = 3.
+
+  If the field is of characteristic = 3, then there exists a change of variables which will change
+  it into such normal form (`WeierstrassCurve.exists_variableChange_isCharThreeNF`).
+  See also `WeierstrassCurve.toCharThreeNF` and
+  `WeierstrassCurve.toCharThreeNF_spec`.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:60]:
```suggestion
  See also `WeierstrassCurve.toCharThreeNF` and `WeierstrassCurve.toCharThreeNF_spec`.
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 38]
```diff
@@ -0,0 +1,661 @@
...
+
+- `WeierstrassCurve.IsCharTwoNF` is the combination of the above two, that is, asserts that
+  a `WeierstrassCurve` is of form $Y^2 + XY = X^3 + a_2X^2 + a_6$ or
+  $Y^2 + a_3Y = X^3 + a_4X + a_6$.
+  It is the normal form of characteristic = 2.
+
+  If the field is of characteristic = 2, then there exists a change of variables which will change
+  it into such normal form (`WeierstrassCurve.exists_variableChange_isCharTwoNF`).
+  See also `WeierstrassCurve.toCharTwoNF` and
+  `WeierstrassCurve.toCharTwoNF_spec`.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:86]:
```suggestion
  See also `WeierstrassCurve.toCharTwoNF` and `WeierstrassCurve.toCharTwoNF_spec`.
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 39]
```diff
@@ -0,0 +1,661 @@
...
+
+  If the field is of characteristic = 2 and the $a_1$ of the curve ≠ 0 (for an elliptic curve,
+  this is equivalent to j ≠ 0), then there exists a change of variables which will change
+  it into such normal form (see `WeierstrassCurve.toCharTwoJNeZeroNF`
+  and `WeierstrassCurve.toCharTwoJNeZeroNF_spec`).
+
+- `WeierstrassCurve.IsCharTwoNF` is the combination of the above two, that is, asserts that
+  a `WeierstrassCurve` is of form $Y^2 + XY = X^3 + a_2X^2 + a_6$ or
+  $Y^2 + a_3Y = X^3 + a_4X + a_6$.
+  It is the normal form of characteristic = 2.
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:81]:
```suggestion
  $Y^2 + a_3Y = X^3 + a_4X + a_6$. It is the normal form of characteristic = 2.
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 40]
```diff
@@ -0,0 +1,661 @@
...
+  rw [self.c₄]
+  linear_combination 5 * W.a₂ ^ 2 * CharP.cast_eq_zero R 3
+
+theorem c₆_of_char_three [CharP R 3] : W.c₆ = -W.a₂ ^ 3 := by
+  rw [self.c₆]
+  linear_combination (-21 * W.a₂ ^ 3 - 288 * W.a₆) * CharP.cast_eq_zero R 3
+
+theorem Δ_of_char_three [CharP R 3] : W.Δ = -W.a₂ ^ 3 * W.a₆ := by
+  rw [self.Δ]
+  linear_combination (-21 * W.a₂ ^ 3 * W.a₆ - 144 * W.a₆ ^ 2) * CharP.cast_eq_zero R 3
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:307]: I guess you can add b2, b6, and b8 too here for completeness? Same for the others for `_char_two`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 41]
```diff
@@ -0,0 +1,661 @@
...
+
+-- TODO: move to suitable location ???
+theorem c₄_of_char_two [CharP R 2] : W.c₄ = W.a₁ ^ 4 := by
+  rw [c₄, b₂_of_char_two]
+  linear_combination -12 * W.b₄ * CharP.cast_eq_zero R 2
+
+-- TODO: move to suitable location ???
+theorem c₆_of_char_two [CharP R 2] : W.c₆ = -W.a₁ ^ 6 := by
+  rw [c₆, b₂_of_char_two]
+  linear_combination (18 * W.a₁ ^ 2 * W.b₄ - 108 * W.b₆) * CharP.cast_eq_zero R 2
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:452]: I guess you want these in `Weierstrass.lean`? Maybe add it for Delta/j and char 3 too if they're nice enough.

**Review by Multramate — COMMENTED** [review]
Some docstring comments. I will finish the rest tomorrow (I swear!)

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 31 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:108]: > Do you need long names and `haveI`'s? At least in this file, except for `IsCharThreeNF`, I replaced all five `structure`'s with `class`'s, replaced all `(self : W. ...)` with `[W. ...]`, removed all `include self` and `self.`, and it seems to work fine (and a lot shorter!). Maybe you have an application in mind that is annoying without the dot notation?

I mean outside this file. For example, if you know that a curve is in `IsShortNF`, either by input arguments (`(H : W.IsShortNF)` vs `[W.IsShortNF]`) or by prove it (`have H : W.IsShortNF := by ...` vs `haveI : W.IsShortNF := by ...`). The `structure` and `class` approach make no much difference. Suppose you want to use its properties. For the first case, you write `rw [H.XX]`. For the second case, you need to write `rw [IsShortNF.XX]` or `rw [XX_of_isShortNF]`, which is longer. And you need to remember what normal form you have used.

Moreover, do you think it's a good idea to make `IsShortNF.XX` as simp lemmas? In this way the above `rw` can simply be `simp [H]`. But I'm afraid that this may confuse simp system for `class` approach if you have proved that the curve are in several normal forms. 

> If you don't need dot notation, the more natural thing is to remove the namespaces and replace `IsCharNeTwoNF.b₂` with `isCharNeTwoNF_b₂`, etc but maybe you still prefer the dot notation. I don't know which is better.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 26 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: `IsShort` -> Time is short 🤣

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 40 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:307]: Added.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 42]
```diff
@@ -0,0 +1,658 @@
...
+  | Or.inl h | Or.inr h => h.isCharNeTwoNF
+
+end IsCharThreeNF
+
+section VariableChange
+
+variable [CharP R 3] [CharP F 3]
+
+/-- For a `WeierstrassCurve` defined over a ring of characteristic = 3,
+there is an explicit change of variables, which changes it to $Y^2 = X^3 + a_4X + a_6$
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:371]: Consistency:
```suggestion
there is an explicit change of variables of it to $Y^2 = X^3 + a_4X + a_6$
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 43]
```diff
@@ -0,0 +1,658 @@
...
+$Y^2 + XY = X^3 + a_2X^2 + a_6$ (`WeierstrassCurve.IsCharTwoJNeZeroNF`) or
+$Y^2 + a_3Y = X^3 + a_4X + a_6$ (`WeierstrassCurve.IsCharTwoJZeroNF`). -/
+def IsCharTwoNF : Prop := W.IsCharTwoJNeZeroNF ∨ W.IsCharTwoJZeroNF
+
+section VariableChange
+
+variable [CharP R 2] [CharP F 2]
+
+/-- For a `WeierstrassCurve` defined over a ring of characteristic = 2,
+there is an explicit change of variables, which changes it to $Y^2 + a_3Y = X^3 + a_4X + a_6$
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:605]: Consistency:
```suggestion
there is an explicit change of variables of it to $Y^2 + a_3Y = X^3 + a_4X + a_6$
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 44]
```diff
@@ -0,0 +1,658 @@
...
+(`WeierstrassCurve.IsCharTwoJZeroNF`) if its j = 0. -/
+def toCharTwoJZeroNF : VariableChange R := ⟨1, W.a₂, 0, 0⟩
+
+/-- For a `WeierstrassCurve` defined over a field of characteristic = 2,
+there is an explicit change of variables, which changes it to $Y^2 + XY = X^3 + a_2X^2 + a_6$
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:610]: Consistency:
```suggestion
there is an explicit change of variables of it to $Y^2 + XY = X^3 + a_2X^2 + a_6$
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 45]
```diff
@@ -0,0 +1,658 @@
...
+    ∃ C : VariableChange F, (W.variableChange C).IsCharThreeNF :=
+  ⟨_, W.toCharThreeNF_spec⟩
+
+end
+
+end VariableChange
+
+/-! ### Normal forms of characteristic = 2 and j ≠ 0 -/
+
+/-- A `WeierstrassCurve` is in normal form of characteristic = 2 and j ≠ 0, if its $a_1 = 1$,
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:439]:
```suggestion
/-- A `WeierstrassCurve` is in normal form of characteristic = 2 and j ≠ 0, if its $a_1 = 1$ and
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 46]
```diff
@@ -0,0 +1,658 @@
...
+
+# Some normal forms of elliptic curves
+
+This file defines some normal forms of Weierstrass equations of elliptic curves.
+
+## Main definitions and results
+
+The following normal forms are in [silverman2009], section III.1, page 42.
+
+- `WeierstrassCurve.IsCharNeTwoNF` is a predicate which asserts that a `WeierstrassCurve` is
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:20]: Do `-` render properly? I use ` *` (indented with one space) for bullets usually.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 47]
```diff
@@ -0,0 +1,658 @@
...
+  simp [self.isCharNeTwoNF.c₄, self.a₂]
+
+theorem c₆ : W.c₆ = -864 * W.a₆ := by
+  simp [self.isCharNeTwoNF.c₆, self.a₂]
+
+theorem Δ : W.Δ = -16 * (4 * W.a₄ ^ 3 + 27 * W.a₆ ^ 2) := by
+  rw [self.isCharNeTwoNF.Δ, self.a₂]
+  ring1
+
+theorem b₄_of_char_three [CharP R 3] : W.b₄ = -W.a₄ := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:208]: Extract `[CharP R 3]` into a variable outside since it's used multiple times here?

Same with those in `IsCharThreeJNeZero` (both `W` and `E`) and `IsCharTwoJNeZero`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 48]
```diff
@@ -0,0 +1,658 @@
...
+
+end IsCharTwoJZeroNF
+
+namespace IsCharTwoJZeroNF
+
+variable {E} (self : E.IsCharTwoJZeroNF)
+include self
+
+theorem j_of_char_two [CharP F 2] : E.j = 0 := by
+  simp [EllipticCurve.j, self.c₄_of_char_two]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:589]: Do you want this too?
```
theorem j : E.j = -110592 * E.a₄ ^ 3 / (-64 * E.a₄ ^ 3 - 27 * E.b₆ ^ 2) := by
  have h := E.Δ'.ne_zero
  rw [E.coe_Δ', self.Δ] at h
  rw [EllipticCurve.j, Units.val_inv_eq_inv_val, ← div_eq_inv_mul, E.coe_Δ',
    self.c₄, self.Δ, div_eq_div_iff h h]
  ring1
```
I just copied this from `IsCharThreeJNeZeroNF`, but you can probably make the proof nicer.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 49]
```diff
@@ -0,0 +1,658 @@
...
+  · field_simp [toCharTwoJNeZeroNF]
+    linear_combination (W.a₃ * W.a₁ ^ 3 + W.a₁ ^ 2 * W.a₄ + W.a₃ ^ 2) * CharP.cast_eq_zero F 2
+  · field_simp [toCharTwoJNeZeroNF]
+    linear_combination (W.a₁ ^ 4 * W.a₃ ^ 2 + W.a₁ ^ 5 * W.a₃ * W.a₂) * CharP.cast_eq_zero F 2
+
+/-- For a `WeierstrassCurve` defined over a field of characteristic = 2,
+there is an explicit change of variables of it to `WeierstrassCurve.IsCharTwoNF`, that is,
+$Y^2 + XY = X^3 + a_2X^2 + a_6$ (`WeierstrassCurve.IsCharTwoJNeZeroNF`) or
+$Y^2 + a_3Y = X^3 + a_4X + a_6$ (`WeierstrassCurve.IsCharTwoJZeroNF`). -/
+def toCharTwoNF [DecidableEq F] : VariableChange F :=
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:639]: I saw that you made a post on Zulip if this should be `[DecidableEq F]` or `open scoped Classical in`, and you decided on the former, because you want them to be computable if `F` is a computable field. This is more of a question for my sanity: should I do the same for things like point addition if I could?

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 50]
```diff
@@ -0,0 +1,658 @@
...
+  rw [← toShortNFOfCharThree_a₂] at hb₂
+  set W' := W.variableChange W.toShortNFOfCharThree
+  have H : W'.IsCharNeTwoNF := W.toCharNeTwoNF_spec
+  constructor
+  · simp [H.a₁]
+  · simp [H.a₁, H.a₃]
+  · field_simp
+    linear_combination (W'.a₄ * W'.a₂ ^ 2 + W'.a₄ ^ 2) * CharP.cast_eq_zero F 3
+
+theorem toCharThreeNF_spec_of_b₂_zero (hb₂ : W.b₂ = 0) :
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:418]:
```suggestion
theorem toCharThreeNF_spec_of_b₂_eq_zero (hb₂ : W.b₂ = 0) :
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 51]
```diff
@@ -0,0 +1,658 @@
...
+(`WeierstrassCurve.IsCharTwoJNeZeroNF`) if its j ≠ 0. -/
+def toCharTwoJNeZeroNF (W : WeierstrassCurve F) (ha₁ : W.a₁ ≠ 0) : VariableChange F :=
+  ⟨Units.mk0 _ ha₁, W.a₃ / W.a₁, 0, (W.a₁ ^ 2 * W.a₄ + W.a₃ ^ 2) / W.a₁ ^ 3⟩
+
+theorem toCharTwoJZeroNF_spec (ha₁ : W.a₁ = 0) :
+    (W.variableChange W.toCharTwoJZeroNF).IsCharTwoJZeroNF := by
+  constructor
+  · simp [toCharTwoJZeroNF, ha₁]
+  · simp [toCharTwoJZeroNF, show W.a₂ + 3 * W.a₂ = 0 by
+      linear_combination 2 * W.a₂ * CharP.cast_eq_zero R 2]
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:620]:
```suggestion
  · simp [toCharTwoJZeroNF]
    linear_combination 2 * W.a₂ * CharP.cast_eq_zero R 2
```

**Review by Multramate — APPROVED** [review]
Thanks for your patience! I'm happy with this PR once all the changes are made.

File: Mathlib.lean [hunk 52]
```diff
@@ -828,10 +828,12 @@ import Mathlib.Algebra.Vertex.HVertexOperator
 import Mathlib.AlgebraicGeometry.AffineScheme
 import Mathlib.AlgebraicGeometry.Cover.Open
 import Mathlib.AlgebraicGeometry.EllipticCurve.Affine
+import Mathlib.AlgebraicGeometry.EllipticCurve.CharTwoOrThree
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib.lean:831]: It's OK for me to just put these results into `Weierstrass.lean`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 53]
```diff
@@ -0,0 +1,658 @@
...
+
+section
+
+variable (W : WeierstrassCurve F)
+
+theorem toCharThreeNF_spec_of_b₂_ne_zero (hb₂ : W.b₂ ≠ 0) :
+    (W.variableChange W.toCharThreeNF).IsCharThreeJNeZeroNF := by
+  have h : (2 : F) * 2 = 1 := by linear_combination CharP.cast_eq_zero F 3
+  letI : Invertible (2 : F) := ⟨2, h, h⟩
+  rw [toCharThreeNF]; erw [variableChange_comp]
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:408]: > Do you think this is just due to missing API?

Yes. I have a plan to refactor `VariableChange` to in favor of `*` instead of `VariableChange.comp`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 51 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:620]: But this will introduce a non-terminating `simp`, which is discouraged in mathlib if I remembered correctly.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 49 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:639]: > This is more of a question for my sanity: should I do the same for things like point addition if I could?

It's up to you. Personally I think `DecidableEq` is better. (Perhaps in some day Lean can be a number theory CAS with these algorithms.)

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 46 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:19]: I think yes; see for example https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/FieldTheory/SeparableDegree.lean

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 54]
```diff
@@ -0,0 +1,658 @@
...
+
+end IsCharThreeNF
+
+section VariableChange
+
+variable [CharP R 3] [CharP F 3]
+
+/-- For a `WeierstrassCurve` defined over a ring of characteristic = 3,
+there is an explicit change of variables, which changes it to $Y^2 = X^3 + a_4X + a_6$
+(`WeierstrassCurve.IsShortNF`) if its j = 0.
```
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:371]: The definition itself does not require j = 0. The condition j = 0 is only used when proving its properties.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 48 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:588]: Nice observation! I think this is similar to that of `IsShortNF`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 50 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:417]: But do you think we need to rename `XXXJZero -> XXXJEqZero`? In my opinion, `JEqZero` is too long...

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 31 above)
[the remark this answers is not in the document]
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: I've changed it into typeclass, but I'm not sure `simp` works correctly... sometimes I need to manually specify which theorem to be used since it confuses the order.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 49 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:687]: Presumably you can't do `[DecidableEq]` for `exists_variableChange_isCharTwoNF`?

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 50 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: Yeah I'm also a bit torn about this. I prefer changing `JZero` to `JEqZero` because `J` isn't a keyword used in other places in mathlib, unlike `Char` which is standard. I'm happy with either, but this lemma can be `_eq_zero` regardless.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 51 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: Sure, but in many places you have `field_simp` followed by `linear_combination`, and if I recall correctly `field_simp` calls all of `simp` in addition to those specifically tagged with `field_simp`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 49 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:687]: > Presumably you can't do `[DecidableEq]` for `exists_variableChange_isCharTwoNF`?

It's also possible. Will change it.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 50 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: Changed.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 51 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: I think a compromise is write `simp_rw [toCharTwoJEqZeroNF, variableChange_a₂, inv_one, Units.val_one]` instead of `simp [toCharTwoJZeroNF]`.

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: I just found [this post](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/.60simp.60.20followers) where they discuss what's OK after a `simp`, and I'd argue that `linear_combnation` is basically a `ring`.

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: I also just found [this](https://github.com/leanprover-community/mathlib4/blob/b758def5262ecb106a626ec885176ed1ece2e4ba/scripts/lint-style.py#L154) which are the tactics that are OK after a `simp`, which includes `ring`.

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: > I also just found [this](https://github.com/leanprover-community/mathlib4/blob/b758def5262ecb106a626ec885176ed1ece2e4ba/scripts/lint-style.py#L154) which are the tactics that are OK after a `simp`, which includes `ring`.

Interesting. But that is not including `linear_combination`...

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: Yeah, and I'm advocating for it to be included on Zulip right now :P

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: The consensus so far is that `field_simp` shouldn't be used before `linear_combination` (and might be added to the flexible list soon); instead we should use `field_simp only` which perhaps someone is working on.

Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: > The consensus so far is that `field_simp` shouldn't be used before `linear_combination` (and might be added to the flexible list soon); instead we should use `field_simp only` which perhaps someone is working on.

Oh, that's a bad news... I remembered that `field_simp; ...` is also used in e.g. `Weierstrass.lean` and other files. What about `suffices ...; field_simp ...`?

In my opinion the default `field_simp` should only do `ring` + `field_simp` lemmas. But I think non-terminal `ring` is also discouraged, right?

Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean]: Yeah it's bad news but I do agree with it somewhat, and non-terminal `ring` is indeed discouraged. To be honest `Weierstrass.lean`, `Affine.lean`, and `Group.lean` were written a long time ago and I have since learnt how to write better Lean. For now we don't have `field_simp only`, so let's just keep it as you have written.

**Comment by Multramate** [comment]
LGTM! Thanks for your patience

**Comment by acmepjz** [comment]
Thanks for the review!

bors r+

**Comment by Multramate** [comment]
Oh I didn't actually check the `@[simp]` tags you added later, but I trust that you made them work somehow.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean [hunk 55]
```diff
@@ -0,0 +1,707 @@
...
+section VariableChange
+
+variable [Invertible (2 : R)]
+
+/-- There is an explicit change of variables of a `WeierstrassCurve` to
+a normal form of characteristic ≠ 2, provided that 2 is invertible in the ring. -/
+@[simps]
+def toCharNeTwoNF : VariableChange R := ⟨1, 0, ⅟2 * -W.a₁, ⅟2 * -W.a₃⟩
+
+instance toCharNeTwoNF_spec : (W.variableChange W.toCharNeTwoNF).IsCharNeTwoNF := by
```
Comment (Multramate) [inline Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:166]: Oops, one last thing: what happens if you don't give them names? Are the self-generated names terrible?

**Comment by acmepjz** [comment]
> Oh I didn't actually check the `@[simp]` tags you added later, but I trust that you made them work somehow.

In fact very few of them were added, as there are a lot of `not in simp normal form` error: https://github.com/leanprover-community/mathlib4/actions/runs/11160554198/job/31021240436. Perhaps some of the `@[simp]` tags should be removed since they didn't simplify things significantly; we can remove them later if it is indeed the case.

File: Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean (hunk 55 above)
Comment (acmepjz) [reply Mathlib/AlgebraicGeometry/EllipticCurve/NormalForms.lean:166]: I haven't checked yet, but I prefer to give them explicit names; that's not harmful, right?
